### PR TITLE
feat: rework `StrictSeries` to `RelSeries`

### PR DESCRIPTION
**Pull request by jjaassoonn**
I amend the definition of `StrictSeries` according to [this thread](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/StrictSeries.20!4.233858.2C.20!4.233852/near/356952195)

Now a `RelSeries r` of length `n` is $a_0 \stackrel{r}{\to} a_1 \stackrel{r}{\to} \dots \stackrel{r}{\to} a_n$.

In case `r` is transitive, then `p : RelSeries r` implies that the underlying function of `r` is strictly monotonic.

Then if $\alpha$ is a preordered set, an `LTSeries` is a `RelSeries (. < .)` and its Krull dimension is defined as the supremum of length of `LTSeries`.

For future: now `CompositionSeries` is `RelSeries jordan_holder_lattice.is_maximal` and rework the Jordan Holder file

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/RelSeries.lean [hunk 1]
```diff
@@ -0,0 +1,157 @@
+/-
+Copyright (c) 2023 Jujian Zhang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jujian Zhang
+-/
+
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:6]:
```suggestion
```

File: Mathlib/Order/RelSeries.lean [hunk 2]
```diff
@@ -0,0 +1,157 @@
...
+import Mathlib.Data.Rel
+import Mathlib.Logic.Equiv.Fin
+
+/-!
+# Series of a relation
+If `r` is a relation on `α` then a relation series of length `n` is a series
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:12]:
```suggestion

If `r` is a relation on `α` then a relation series of length `n` is a series
```

File: Mathlib/Order/RelSeries.lean [hunk 3]
```diff
@@ -0,0 +1,157 @@
...
+instance : CoeFun (RelSeries r) (fun x ↦ Fin (x.length + 1) → α) :=
+{ coe := RelSeries.toFun }
+
+/--
+For any type `α`, each term of `α` gives a relation series with the right most index to be 0.
+-/
+@[simps!] def singleton (a : α) : RelSeries r where
+length := 0
+toFun := fun _ => a
+step := fun i => Fin.elim0 i
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:42]:
```suggestion
  length := 0
  toFun := fun _ => a
  step := fun i => Fin.elim0 i
```

File: Mathlib/Order/RelSeries.lean [hunk 4]
```diff
@@ -0,0 +1,157 @@
...
+
+instance [IsEmpty α] : IsEmpty (RelSeries r) where
+false := fun x ↦ IsEmpty.false (x 0)
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:45]:
```suggestion
  false := fun x ↦ IsEmpty.false (x 0)
```

File: Mathlib/Order/RelSeries.lean [hunk 5]
```diff
@@ -0,0 +1,157 @@
...
+
+instance [Inhabited α] : Inhabited (RelSeries r) where
+default := singleton r default
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:48]:
```suggestion
  default := singleton r default
```

File: Mathlib/Order/RelSeries.lean [hunk 6]
```diff
@@ -0,0 +1,157 @@
...
+
+/--
+Given two relations `r, s` on `α` such that `r ≤ s`, any relation series of `r` induces a relation
+series of `s`
+-/
+@[simps!]
+def OfLE (x : RelSeries r) {s : Rel α α} (h : r ≤ s) : RelSeries s where
+length := x.length
+toFun := x
+step := fun _ => h _ _ <| x.step _
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:99]:
```suggestion
  length := x.length
  toFun := x
  step := fun _ => h _ _ <| x.step _
```

File: Mathlib/Order/RelSeries.lean [hunk 7]
```diff
@@ -0,0 +1,157 @@
...
+
+lemma ofLE_length (x : RelSeries r) {s : Rel α α} (h : r ≤ s) :
+  (x.OfLE h).length = x.length := rfl
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:102]:
```suggestion
    (x.OfLE h).length = x.length := rfl
```

Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:102]:
```suggestion
    (x.OfLE h).length = x.length := rfl
```

File: Mathlib/Order/RelSeries.lean [hunk 8]
```diff
@@ -0,0 +1,157 @@
...
+/--
+If `α` is a preordered set, a series ordered by less than is a relation series of the less than
+relation.
+-/
+structure LTSeries extends RelSeries ((. < .) : Rel α α)
+
+namespace LTSeries
+
+instance : Preorder (LTSeries α) :=
+Preorder.lift fun x => x.length
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:121]:
```suggestion
  Preorder.lift fun x => x.length
```

File: Mathlib/Order/RelSeries.lean [hunk 9]
```diff
@@ -0,0 +1,157 @@
...
+
+variable {α}
+
+instance : CoeFun (LTSeries α) (fun x ↦ Fin (x.length + 1) → α) :=
+{ coe := fun x => x.toFun }
+
+lemma le_def (x y : LTSeries α) : x ≤ y ↔ x.length ≤ y.length :=
+Iff.rfl
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:129]:
```suggestion
  Iff.rfl
```

File: Mathlib/Order/RelSeries.lean [hunk 10]
```diff
@@ -0,0 +1,157 @@
...
+
+lemma lt_def (x y : LTSeries α) : x < y ↔ x.length < y.length :=
+Iff.rfl
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:132]:
```suggestion
  Iff.rfl
```

File: Mathlib/Order/RelSeries.lean [hunk 11]
```diff
@@ -0,0 +1,157 @@
...
+
+lemma top_len_unique [OrderTop (LTSeries α)] (p : LTSeries α) (hp : IsTop p) :
+  p.length = (⊤ : LTSeries α).length :=
+le_antisymm (@le_top (LTSeries α) _ _ _) (hp ⊤)
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:136]:
```suggestion
    p.length = (⊤ : LTSeries α).length :=
  le_antisymm (@le_top (LTSeries α) _ _ _) (hp ⊤)
```

File: Mathlib/Order/RelSeries.lean [hunk 12]
```diff
@@ -0,0 +1,157 @@
...
+
+lemma top_len_unique' (H1 H2 : OrderTop (LTSeries α)) : H1.top.length = H2.top.length :=
+le_antisymm (H2.le_top H1.top) (H1.le_top H2.top)
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:139]:
```suggestion
  le_antisymm (H2.le_top H1.top) (H1.le_top H2.top)
```

File: Mathlib/Order/RelSeries.lean [hunk 13]
```diff
@@ -0,0 +1,157 @@
...
+
+lemma StrictMono (x : LTSeries α) : StrictMono x :=
+fun _ _ h => x.toRelSeries.StrictMono h
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:142]:
```suggestion
  fun _ _ h => x.toRelSeries.StrictMono h
```

Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:142]:
```suggestion
  fun _ _ h => x.toRelSeries.StrictMono h
```

File: Mathlib/Order/RelSeries.lean [hunk 14]
```diff
@@ -0,0 +1,157 @@
...
+
+section PartialOrder
+
+variable {β : Type _} [PartialOrder β]
+
+lemma Monotone (x : LTSeries β) : Monotone x :=
+fun _ _ h => by
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:149]:
```suggestion
  fun _ _ h => by
```

**Review by kbuzzard — COMMENTED** [review]
Suggesting (my understanding of) Lean 4 whitespace conventions. But in general this looks fine to me.

**Comment by semorrison** [comment]
Would you mind either adding the lemma(s) relating it to `List.Chain' r (List.ofFn s.toFun)`, or at least a comment about `Chain'`, so that users of this API are aware of the connection?

(If you really want to be thorough you could mention the `Quiver.path` connection too, but I think that is less important.)

**Comment by jjaassoonn** [comment]
there is a very weird bug (I think this might be a bug), in `RelSeries.lean`, if I import `Mathlib.Data.List.ofFn`, then build will fail, but if I import something that imported `Mathlib.Data.List.ofFn` then it will build on github

If I import `Mathlib.Data.List.ofFn` directly and run `lake build`, then this is the (important bit?) of the error message:
```
./././Mathlib/Order/KrullDimension.lean:7:0: error: import Mathlib.Data.List.OfFn failed, environment already contains '_private.Mathlib.Data.List.OfFn.0.List.replicate.match_1.splitter' from Mathlib.Data.List.ofFn
```

one can see the failed run at [here](https://github.com/leanprover-community/mathlib4/actions/runs/5114761577/jobs/9195334959) (this is where `Mathlib.Data.List.ofFn` is imported directly) and successful run at [here](https://github.com/leanprover-community/mathlib4/actions/runs/5114799234/jobs/9195413468), `Mathlib.Data.List.Indexes` is imported so that`ofFn` is only indirectly imported

File: Mathlib/Order/RelSeries.lean [hunk 15]
```diff
@@ -0,0 +1,198 @@
...
+Let `r` be a relation on `α`, a relation series of `r` of length `n` is a series
+`a_0, a_1, ..., a_n` such that `r a_i a_{i+1}` for all `i < n`
+-/
+structure RelSeries where
+/-- the number of inequalities in the series -/
+length : ℕ
+/-- the underlying function of a relation series -/
+toFun : Fin (length + 1) → α
+/-- adjacent elements are related by the said relation -/
+step : ∀ (i : Fin length), r (toFun <| Fin.castSucc i) <| toFun <| i.succ
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:30]:
```suggestion
step : ∀ (i : Fin length), r (toFun (Fin.castSucc i)) (toFun i.succ)
```
This is definitionally the same but I think it's more readable?

File: Mathlib/Order/RelSeries.lean [hunk 16]
```diff
@@ -0,0 +1,198 @@
...
+    r (x i) (x j) := by
+  induction i using Fin.inductionOn generalizing j with
+  | h0 => induction j using Fin.inductionOn with
+    | h0 => cases lt_irrefl _ h
+    | hs j ihj =>
+      by_cases H : 0 < Fin.castSucc j
+      . exact IsTrans.trans _ _ _ (ihj H) (x.step _)
+      . convert x.step _
+        simp only [not_lt, Fin.le_zero_iff] at H
+        exact H.symm
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:86]:
```suggestion
      . simp only [not_lt, Fin.le_zero_iff] at H
        rw [← H]
        exact x.step _
```
I've been a bit edgy about non-terminal `convert`s ever since I had a discussion with Gabriel about them. This avoids the non-terminal `convert` without being any longer.

File: Mathlib/Order/RelSeries.lean [hunk 17]
```diff
@@ -0,0 +1,198 @@
...
+  | hs i _ => induction j using Fin.inductionOn with
+    | h0 => cases not_lt_of_lt (Fin.succ_pos i) h
+    | hs j ihj =>
+      obtain (H|H) : i.succ = Fin.castSucc j ∨ i.succ < Fin.castSucc j
+      . change (i + 1 : ℕ) < (j + 1 : ℕ) at h
+        rw [Nat.lt_succ_iff, le_iff_lt_or_eq] at h
+        rcases h with (h|h)
+        . right
+          exact h
```
Comment (kbuzzard) [inline Mathlib/Order/RelSeries.lean:95]:
```suggestion
        . exact Or.inr h
```

**Review by kbuzzard — APPROVED** [review]
This still looks fine to me. I've made some more minor comments.

File: Mathlib/Order/KrullDimension.lean [hunk 18]
```diff
@@ -32,67 +29,13 @@ sum of `-∞` and the Krull dimension of any other varieties.
...
-  le_antisymm (H2.le_top H1.top) (H1.le_top H2.top)
-
-end StrictSeries
-
-/--
-Krull dimension of a preordered set `α` is the supremum of the right most index of all strict
-series of `α`. If there is no strict series `a₀ < a₁ < ... < aₙ` in `α`, then its Krull dimension
-is defined to be negative infinity; if the length of `a₀ < a₁ < ... < aₙ` is unbounded, its Krull
-dimension is defined to be positive infinity.
+Krull dimension of a preordered set `α` is the supremum of the right most index of all relation
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:32]:
```suggestion
Krull dimension of a preorder `α` is the supremum of the rightmost index of all relation
```

File: Mathlib/Order/RelSeries.lean [hunk 19]
```diff
@@ -0,0 +1,198 @@
...
+/-- adjacent elements are related by the said relation -/
+step : ∀ (i : Fin length), r (toFun <| Fin.castSucc i) <| toFun <| i.succ
+
+namespace RelSeries
+
+instance : CoeFun (RelSeries r) (fun x ↦ Fin (x.length + 1) → α) :=
+{ coe := RelSeries.toFun }
+
+instance : Preorder (RelSeries r) :=
+  Preorder.lift fun x => x.length
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:38]: That looks like a very poor notion of "less than". I would have rather expected `a ≤ b ↔ a.toList.sublist b.toList`. Do you have a reason behind this?

File: Mathlib/Order/RelSeries.lean [hunk 20]
```diff
@@ -0,0 +1,198 @@
...
+/-- Every nonempty list satisfying the chain condition gives a relation series-/
+@[simps]
+def fromListChain' (x : List α) (x_ne_empty : x ≠ ∅) (hx : x.Chain' r) : RelSeries r where
+  length := x.length.pred
+  toFun := x.get ∘ Fin.cast (Nat.succ_pred_eq_of_pos <| List.length_pos.mpr x_ne_empty)
+  step := fun i => List.chain'_iff_get.mp hx i i.2
+
+/-- Relation series of `r` and nonempty list of `α` satisfying `r`-chain condition bijectively
+corresponds to each other.-/
+def Equiv : RelSeries r ≃ {x : List α | x ≠ ∅ ∧ x.Chain' r} where
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:145]:
```suggestion
protected def Equiv : RelSeries r ≃ {x : List α | x ≠ ∅ ∧ x.Chain' r} where
```
else the `≃` notation will break once you `open RelSeries`.

File: Mathlib/Order/RelSeries.lean [hunk 21]
```diff
@@ -0,0 +1,198 @@
...
+
+lemma toList_chain' (x : RelSeries r) : x.toList.Chain' r := by
+  rw [List.chain'_iff_get]
+  intros i h
+  have h' : i < x.length := by simpa [List.length_ofFn] using h
+  convert x.step ⟨i, h'⟩ <;>
+  . rw [List.get_ofFn]
+    congr 1
+
+lemma toList_not_empty (x : RelSeries r) : x.toList ≠ ∅ := fun m =>
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:133]:
```suggestion
lemma toList_ne_empty (x : RelSeries r) : x.toList ≠ ∅ := fun m =>
```

File: Mathlib/Order/RelSeries.lean [hunk 22]
```diff
@@ -0,0 +1,197 @@
...
+-/
+
+variable {α : Type _} (r : Rel α α)
+
+/--
+Let `r` be a relation on `α`, a relation series of `r` of length `n` is a series
+`a_0, a_1, ..., a_n` such that `r a_i a_{i+1}` for all `i < n`
+-/
+structure RelSeries where
+/-- the number of inequalities in the series -/
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:25]:
```suggestion
/-- The number of inequalities in the series -/
```

File: Mathlib/Order/RelSeries.lean [hunk 23]
```diff
@@ -0,0 +1,197 @@
...
+length : ℕ
+/-- the underlying function of a relation series -/
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:27]:
```suggestion
/-- The underlying function of a relation series -/
```

File: Mathlib/Order/RelSeries.lean [hunk 24]
```diff
@@ -0,0 +1,197 @@
...
+toFun : Fin (length + 1) → α
+/-- adjacent elements are related by the said relation -/
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:29]:
```suggestion
/-- Adjacent elements are related -/
```

File: Mathlib/Order/KrullDimension.lean [hunk 25]
```diff
@@ -32,67 +29,13 @@ sum of `-∞` and the Krull dimension of any other varieties.
...
+series of `α` order by `<`. If there is no series `a₀ < a₁ < ... < aₙ` in `α`, then its Krull
+dimension is defined to be negative infinity; if the length of all series `a₀ < a₁ < ... < aₙ` is
+unbounded, its Krull dimension is defined to be positive infinity.
 -/
 noncomputable def krullDim : WithBot (WithTop ℕ) :=
-  ⨆ (p : StrictSeries α), p.length
+  ⨆ (p : LTSeries α), p.length
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:38]: This is basically `Order.pred ((Set.univ : Set α) .chain_height : WithBot ℕ∞)` (once generalised to an arbitrary relation).

**Review by YaelDillies — COMMENTED** [review]
This seems to duplicate a lot of material from `Order.Height`. Could you try unifying stuff here rather than adding yet another structure?

File: Mathlib/Order/RelSeries.lean (hunk 19 above)
Comment (jjaassoonn) [reply Mathlib/Order/RelSeries.lean:38]: This was originally for krull dimensions of a ring. So only the length of a chain is important.

Comment (jjaassoonn) [reply Mathlib/Order/RelSeries.lean:38]: When considering `\covby` relation of submodules, this weak preorder will give the length of a module

Comment (YaelDillies) [reply Mathlib/Order/RelSeries.lean:38]: How will it "give" it?

Comment (jjaassoonn) [reply Mathlib/Order/RelSeries.lean:38]: With this preorder we can also define type class of finite dimensional rings to be order with a top; infinite dimensional rings to be nonempty and without top.

Comment (YaelDillies) [reply Mathlib/Order/RelSeries.lean:38]: That sounds unnatural. I would expect you to use `no_max_order` instead of `no_top_order` (for the second one).

File: Mathlib/Order/KrullDimension.lean (hunk 25 above)
Comment (eric-wieser) [reply Mathlib/Order/KrullDimension.lean:38]: I think it's fundamentally not a pred_order

Comment (jjaassoonn) [reply Mathlib/Order/KrullDimension.lean:38]: @YaelDillies do you think changing `s.chainHeight` to be `withBot ℕ∞` a good idea?

Comment (alreadydone) [reply Mathlib/Order/KrullDimension.lean:38]: Discussions on Zulip seems to conclude it's nicer to use `Fin` indexed tuples rather than `List`, and `RelSeries` rather than `List.chain'`. I think one reason it's nicer is that we restrict to positive length tuples and have direct access to the first and last terms of the chain without worrying about the `List.nil` case. Of course we may bundle the `≠ List.nil` condition or use a pair `(a,l)` as in `List.chain` to form the `RelSeries` type, but why not just generalize `CompositionSeries` given that there's already API around it. For example, `snoc` in #3852 and `append` in #3858 are already there, and now that we've `StrictMono` with the `step` condition we can simplify the proofs by copying from `CompositionSeries`. Worth noting that `append` in #3858 has length `p.length + q.length + 1` rather than `p.length + q.length` as in `CompositionSeries`. I think the latter is usually what we want. (For `List` there are List.Chain'.append and [List.Chain'.append_overlap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/List/Chain.html#List.Chain'.append_overlap).)

Using `RelSeries` instead of `List.chain'` would probably mean abandonment of the `Set.chainHeight` API, which is unfortunate, and I wonder whether @erdOne has anything to say about it. `Set.chainHeight` is "off by one" and It's probably not worth redefining it if we're not gonna use it, but we may use an OrderIso between the two to transfer results if we want.

Now, some comments about the name `krullDim`: since you'd like to use it to define length of modules, I'd suggest calling it some generic name like `supSeriesLength` or `supChainLength`, and reserving `krullDim` for `CommRing.krullDim` or `TopologicalSpace.krullDim`. You won't want it to clash with [Krull dimension of modules](https://en.wikipedia.org/wiki/Deviation_of_a_poset) which is distinct from the length and defined in a totally different way.

**Review by alreadydone — COMMENTED** [review]
Here are my preliminary comments about the general design; thanks to @jcommelin for alerting me of this open PR.

File: Mathlib/Order/KrullDimension.lean (hunk 25 above)
Comment (alreadydone) [reply Mathlib/Order/KrullDimension.lean:38]: Oh, I just noticed #5881 already generalized `chainHeight` to arbitrary relations. Maybe we should just define `pred: ℕ∞ ≃o ℕ±∞`, prove that `pred set.univ.chainHeight = krullDim α` and `pred s.chainHeight = krullDim ↥s`, and start transferring result from `chainHeight` to `krullDim` ...

**Comment by jjaassoonn** [comment]
> I doubt that you really want to use \covby / CompositionSeries in the definition of length of modules. 
In #6277 I have rewritten `JordanHolder.lean` in terms of `RelSeries` 
> There are three ways of demonstrably equivalent definitions of length, and I prefer the first one because you can't use krullDim for the other two:
> 1. the supremum of lengths of all RelSeries of <, i.e. krullDim for the relation <.
> 2. the supremum of lengths of all RelSeries of < with the first term bot and the last term top; this is equivalent to 1 because any RelSeries of < can be extended to make the first term bot and the last term top.
> 3. the length of any RelSeries of \covby with the first term bot and the last term top if any such series exists (by Jordan-Holder they all have the same length), and infinity if none exists.

I have proved in a Lean 3 project that 1 <-> 3 at [here](https://github.com/FMLJohn/dimension_theory/blob/622b4c4125ed45a9f28b5317c5395018aa5bc59f/src/module_length.lean#L63) and I am trying to translate the project in #6277

File: Mathlib/Order/KrullDimension.lean (hunk 25 above)
Comment (jjaassoonn) [reply Mathlib/Order/KrullDimension.lean:38]: > Now, some comments about the name krullDim: since you'd like to use it to define length of modules, I'd suggest calling it some generic name like supSeriesLength or supChainLength, and reserving krullDim for CommRing.krullDim or TopologicalSpace.krullDim. You won't want it to clash with [Krull dimension of modules](https://en.wikipedia.org/wiki/Deviation_of_a_poset) which is distinct from the length and defined in a totally different way.

Thanks for pointing this out

**Comment by jjaassoonn** [comment]
> > That looks like a very poor notion of "less than". I would have rather expected `a ≤ b ↔ a.toList.sublist b.toList`. 

> Do you have a reason behind this?

My only defence is that for this `RelSeries`, I only care about length, and I argue that since `RelSeries` is a separate type instead of being e.g. subtype of lists, so there is no harm for defining the order to be one induced by length

File: Mathlib/Order/KrullDimension.lean (hunk 25 above)
Comment (alreadydone) [reply Mathlib/Order/KrullDimension.lean:38]: > in #6277, I made the other way round, I rewrite `JordanHolder.lean` completely in terms of `RelSeries`

Yeah, that's exactly what I mean and I think #6277 is in the right direction. Fantastic work!

**Comment by jjaassoonn** [comment]
> > my point was that this definition makes infinite dimensional rings something already in mathlib. There is a trichotomy of zero type, finite dimensional and infinite dimensional type, they corresponds to existing type class of Empty, TopOrder and NoTopOrder on LTSeries.
> 
> That seems to be abusing the typeclass system and doesn't really justify introducing these two instances: as I said you could use `TopOrder (Set.range (LTSeries α).length)`, and for the empty case simply `IsEmpty α`. Also, I think you don't always want to use trichotomy since many results hold both for empty types and finite-dimensional types, which you can't state using a disjunction of typeclasses; so I expect it's more convenient to have a `FiniteDimensional` typeclass that says `krullDim < ⊤` and add in a `Nonempty` condition when necessary. (For example, quotients and localizations of `FiniteDimensional` rings are `FiniteDimensional`.)
> 
> That said, I have no idea whether it's better to reuse existing typeclasses or introducing new ones from a performance perspective in general.

I have removed the awkward order on `RelSeries` in #6277, instead I introduced some new type classes such as [`Rel.FiniteDimensional`](https://github.com/leanprover-community/mathlib4/blob/1e68c843a84aedc0f0d12397c35e946adb25976f/Mathlib/Order/RelSeries.lean#L77), [`FiniteDimensionalType`](https://github.com/leanprover-community/mathlib4/blob/1e68c843a84aedc0f0d12397c35e946adb25976f/Mathlib/Order/RelSeries.lean#L669), [`FiniteLengthModule`](https://github.com/leanprover-community/mathlib4/blob/1e68c843a84aedc0f0d12397c35e946adb25976f/Mathlib/Algebra/Module/Length.lean#L33)

**Comment by jjaassoonn** [comment]
I have now removed the weird ordering by length on `RelSeries`, hopefully now this PR is less controversial

File: Mathlib/Order/RelSeries.lean [hunk 26]
```diff
@@ -0,0 +1,261 @@
...
+
+namespace Rel
+
+/-- a relation `r` is said to be finite dimensional iff there is a relation series of `r` with the
+  maximum length. -/
+class FiniteDimensional where
+  /-- the longest relation series-/
+  longestRelSeries : RelSeries r
+  /-- the longest relation series is longer than any other series -/
+  is_longest : ∀ (y : RelSeries r), y.length ≤ longestRelSeries.length
```
Comment (alreadydone) [inline Mathlib/Order/RelSeries.lean:166]: Is there a reason that you want to keep track of a particular longest RelSeries? Notice that data held by a class is supposed to be canonical structure on a type rather than an arbitrarily chosen distinguished RelSeries. Personally I'd just define this class to consists of a single field: `exists_longest : ∃ longest : RelSeries r, ∀ y : RelSeries r, y.length ≤ longest.length`. This way the class would be Prop-valued and therefore couldn't be involved in any diamonds, and also conform to the design of [Finite](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finite/Defs.html#Finite), [Module.Finite](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Finiteness.html#Module.Finite) / [FiniteDimensional](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/FiniteDimensional.html#FiniteDimensional), [Algebra.FiniteType](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/FiniteType.html#Algebra.FiniteType), etc.

File: Mathlib/Order/RelSeries.lean [hunk 27]
```diff
@@ -0,0 +1,261 @@
...
+lemma longestRelSeries_is_longest [r.FiniteDimensional] (x : RelSeries r) :
+  x.length ≤ r.longestRelSeries.length := FiniteDimensional.is_longest _
+
+/-- a relation `r` is said to be infinite dimensional iff there exists relation series of arbitrary
+  length. -/
+class InfiniteDimensional where
+  /-- there should a relation series with length at least `n` for all natural number `n` -/
+  longRelSeries : ℕ → RelSeries r
+  /-- there should a relation series with length at least `n` for all natural number `n` -/
+  longRelSeries_length : ∀ (n : ℕ), n ≤ (longRelSeries n).length
```
Comment (alreadydone) [inline Mathlib/Order/RelSeries.lean:180]: Similarly, I would define this class to consists of a single field `exists_length_ge : ∀ n : ℕ, ∃ s : RelSeries r, n ≤ s.length`.

File: Mathlib/Order/RelSeries.lean [hunk 28]
```diff
@@ -0,0 +1,261 @@
...
+
+/-- if a relation on `α` is infinite dimensional, then `α` is inhabited -/
+def inhabited_of_infiniteDimensional [r.InfiniteDimensional] : Inhabited α :=
+  ⟨(r.relSeriesOfInfiniteDimensional 0) 0⟩
+
+end Rel
+
+/-- A type is finite dimensional if its `LTSeries` has bounded length. -/
+class FiniteDimensionalType (γ : Type _) [Preorder γ] extends
+  Rel.FiniteDimensional ((. < .) : γ → γ → Prop)
```
Comment (alreadydone) [inline Mathlib/Order/RelSeries.lean:197]: I think
```suggestion
abbrev FiniteDimensionalType (γ : Type _) [Preorder γ] :=
  Rel.FiniteDimensional ((. < .) : γ → γ → Prop)
```
would be reasonable. (Same below)

**Review by alreadydone — COMMENTED** [review]
Thanks for removing the weird ordering, but there are still some issues with the design of the classes.

File: Mathlib/Order/RelSeries.lean [hunk 29]
```diff
@@ -0,0 +1,261 @@
...
+  (@longest_is_longest α _ H1 (@longest α _ H2))
+
+lemma strictMono (x : LTSeries α) : StrictMono x :=
+  fun _ _ h => x.rel_of_lt h
+
+section PartialOrder
+
+variable {β : Type _} [PartialOrder β]
+
+lemma Monotone (x : LTSeries β) : Monotone x :=
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Order/RelSeries.lean:254]: changed and removed unnecessary assumption `PartialOrder`, so deleted the section

File: Mathlib/Order/RelSeries.lean [hunk 30]
```diff
@@ -0,0 +1,261 @@
...
+
+lemma toList_chain' (x : RelSeries r) : x.toList.Chain' r := by
+  rw [List.chain'_iff_get]
+  intros i h
+  have h' : i < x.length := by simpa [List.length_ofFn] using h
+  convert x.step ⟨i, h'⟩ <;>
+  · rw [List.get_ofFn]
+    congr 1
+
+lemma toList_ne_empty (x : RelSeries r) : x.toList ≠ ∅ := fun m =>
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Order/RelSeries.lean]: changed

File: Mathlib/Order/RelSeries.lean [hunk 31]
```diff
@@ -0,0 +1,261 @@
...
+  length. -/
+class InfiniteDimensional where
+  /-- there should a relation series with length at least `n` for all natural number `n` -/
+  longRelSeries : ℕ → RelSeries r
+  /-- there should a relation series with length at least `n` for all natural number `n` -/
+  longRelSeries_length : ∀ (n : ℕ), n ≤ (longRelSeries n).length
+
+/-- a relation series with length at least `n` if the relation is infinite dimensional -/
+def relSeriesOfInfiniteDimensional [InfiniteDimensional r] (n : ℕ) : RelSeries r :=
+  (InfiniteDimensional.longRelSeries n)
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Order/RelSeries.lean]: changed

File: Mathlib/Order/RelSeries.lean (hunk 28 above)
Comment (jjaassoonn) [reply Mathlib/Order/RelSeries.lean]: changed

File: Mathlib/Order/RelSeries.lean (hunk 26 above)
Comment (jjaassoonn) [reply Mathlib/Order/RelSeries.lean:166]: I was trying to avoid adding non-computable, but I guess I don't really care about computability issues. So I will change it to a `Prop` valued one

Comment (jjaassoonn) [reply Mathlib/Order/RelSeries.lean]: changed

File: Mathlib/Order/RelSeries.lean (hunk 27 above)
Comment (jjaassoonn) [reply Mathlib/Order/RelSeries.lean]: changed to this version

File: Mathlib/Order/RelSeries.lean [hunk 32]
```diff
@@ -0,0 +1,255 @@
...
+
+/-- A type is infinite dimensional if it has `LTSeries` of at least arbitrary length -/
+abbrev InfiniteDimensionalOrder (γ : Type _) [Preorder γ] :=
+  Rel.InfiniteDimensional ((. < .) : γ → γ → Prop)
+
+section LTSeries
+
+variable (α) [Preorder α]
+/--
+If `α` is a preordered set, a series ordered by less than is a relation series of the less than
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:212]:
```suggestion
If `α` is a preorder, a series ordered by less than is a relation series of the less than
```

**Review by alreadydone — APPROVED** [review]
LGTM; pushed [some adjustments](https://github.com/leanprover-community/mathlib4/pull/3878/files/4169caf0dfc3a419adc54c89291516aecf4021f5..faadb7d5b926ee2270f9e520939294df53eb713b).

File: Mathlib/Order/RelSeries.lean [hunk 33]
```diff
@@ -129,71 +98,61 @@ lemma toList_ne_empty (x : RelSeries r) : x.toList ≠ [] := fun m =>
...
 @[simp] lemma length_withLength [r.InfiniteDimensional] (n : ℕ) :
     (RelSeries.withLength r n).length = n :=
-  ((inferInstance : r.InfiniteDimensional).exists_relSeries_with_length n).choose_spec
+  (Rel.InfiniteDimensional.exists_relSeries_with_length n).choose_spec
 
-/-- if a relation on `α` is infinite dimensional, then `α` is inhabited -/
-noncomputable def inhabited_of_infiniteDimensional [r.InfiniteDimensional] : Inhabited α :=
-  ⟨(RelSeries.withLength r 0) 0⟩
+/-- If a relation on `α` is infinite dimensional, then `α` is nonempty. -/
+lemma nonempty_of_infiniteDimensional [r.InfiniteDimensional] : Nonempty α :=
```
Comment (alreadydone) [inline Mathlib/Order/RelSeries.lean:154]: I think it makes little sense to make a def to produce an arbitrary default element, so I changed it to Nonempty.

**Comment by alreadydone** [comment]
maintainer merge

**Comment by jjaassoonn** [comment]
Did I do something stupid?

**Comment by jjaassoonn** [comment]
i think I did something stupid with git @alreadydone

**Comment by eric-wieser** [comment]
I think you'll need to open a new PR from the same branch to recover here.
